US04855286
(b) 1(S)-cyclohexylmethyl-2(R,S)-hydroxy-3-(1-methylimidazol-2-yl)propylamine
790 mg of 4(S)-cyclohexylmethyl-5(R,S)-(1-methylimidazol-2-yl-methyl)-1,3-oxazolidin-2-one are dissolved in 33 ml of 2N LiOH in MeOH/H2O 1:1; and the solution is heated under reflux for 3 h, then diluted with 150 ml of water and extracted 3 times with 50 ml of CH2Cl2. Drying with Na2SO4 and concentration in vacuo results in the title compound as colorless oil which is used further without purification.

reactant | 4(S)-cyclohexylmethyl-5(R,S)-(1-methylimidazol-2-yl-methyl)-1,3-oxazolidin-2-one | 790 mg | C1(CCCCC1)C[C@@H]1NC(OC1CC=1N(C=CN1)C)=O | C15H23N3O2
solvent | LiOH | 2N, 33 ml | [Li+].[OH-]
solvent | MeOH H2O | CO.O
solvent | water | 150 ml | O | H2O
product | 1(S)-cyclohexylmethyl-2(R,S)-hydroxy-3-(1-methylimidazol-2-yl)propylamine | C1(CCCCC1)C[C@@H](C(CC=1N(C=CN1)C)O)N | C14H25N3O
